US04245097
A mixture of 1.0 g. of ethyl 4-(6-oxohexadecylamino)benzoate, 207 mg. of hydroxylamine hydrochloride, 244 mg. of sodium acetate and 20 ml. of 95% ethanol is stirred under reflux for 3 hours and filtered. The filtrate is evaporated and a methylene chloride solution of the residue is washed with water, dried over magnesium sulfate, and evaporated to yield ethyl 4-(6-oximinohexadecylamino)benzoate as a white solid.

reactant | ethyl 4-(6-oxohexadecylamino)benzoate | O=C(CCCCCNC1=CC=C(C(=O)OCC)C=C1)CCCCCCCCCC | C25H41NO3
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4-(6-oximinohexadecylamino)benzoate | N(O)=C(CCCCCNC1=CC=C(C(=O)OCC)C=C1)CCCCCCCCCC | C25H42N2O3
